.include spice_models/NPN_2N3904.mod
.include spice_models/PNP_2N3906.mod
.include spice_models/D_1N4148.mod

V1 vcc gnd DC 9
V2 vin gnd SIN(0.25 0.25 440)

* DC blocker
C1 vin 1 1u

* T Biasing
R1 vcc 1 220k
R2 1 gnd 47k

* Voltage amplifier stage
R3 vcc 2 2200
D1 2 3 D_1N4148
D2 3 4 D_1N4148
Q1 4 1 5 2N3904
R4 5 gnd 220 

* Push-pull output stage
Q2 vcc 2 6 2N3904
Q3 gnd 4 6 2N3906

C2 6 vout 470u

********************************************************************************
* Control part
********************************************************************************
.tran 1µ 150m

.control
run

* ** color0 is the background color
* set color0 = rgb:ff/ff/ff

* ** color1 is the color of the grid
* set color1 = rgb:7F/7F/7F

* set color2 = rgb:ff/00/00
* set color3 = rgb:00/00/00
* set color4 = rgb:00/ff/00
* set color5 = rgb:00/00/ff


* plot v(vin) v(2) v(4) v(vout)
plot v(vin) v(vout)

.endc

.end