.include spice_models/NPN_idealNPN.mod
.include spice_models/NPN_2N3904.mod

*  C B E
Q1 2 1 0 2N3904

Vmeas 2 3 DC 0    ; 0V source = short circuit, just measures current
Rl 3 0 100




Vx 1 9 SIN(-0.000 0.010 10)
Voffset 9 0 DC 0.750
.tran 1ms 200ms


** Control part
.control
run
plot  v(2)
.endc

.end

