.include spice_models/D_1N4148.mod

********************************************************************************
* Circuit
********************************************************************************

* Diode bridge
D1 0 2 D1N4148
D2 2 3 D1N4148

* Load
C1 1 2 10u
C2 0 3 10u


********************************************************************************
* Voltage source
********************************************************************************

* For the I-V curve, apply a DC V_in sweep
* for the Vout-Vin curve, apply a DC V_in sweep
* V1 1 0 DC 5
* .dc V1 -4 4 0.01      ; Sweep from -2V to +1V in 10mV steps


* SIN(x, y, z) : Voff=x; Vampl=y; Freq=z[Hz]
Vx 1 0 SIN(0 5 10)
.tran 1ms 1000ms




********************************************************************************
* Control part
********************************************************************************
.control
run
plot v(1) v(3)
* plot i(VmeasR1)
.endc

.end
