.include spice_models/D_1N4148.mod
.include spice_models/ees_sine.mod




VmeasD1 1 10 DC 0    ; 0V source = short circuit, just measures current
D1 10 2 D1N4148

R1 2 0 100k




* For the I-V curve, apply a DC V_in sweep
* for the Vout-Vin curve, apply a DC V_in sweep
* V1 1 0 DC 5
* .dc V1 -4 4 0.01      ; Sweep from -2V to +1V in 10mV steps

* For the time response, apply a sine to V_in
* This is created by a steady DC voltage to a VCO
V_ctrl 50 0 DC 0        ; control voltage input to the sine source
A1 50 1 ees_sine
.tran 1ms 100ms





*** Control part
.control
run
plot v(1) v(2)
.endc

.end
