.include spice_models/NPN_idealNPN.mod
.include spice_models/NPN_2N3904.mod

Vbe 1 0 DC 0.800

*  C B E
Q1 2 1 3 2N3904
Rl 3 0 100

Vce 



Vmeas 2 3 DC 0    ; 0V source = short circuit, just measures current




Vx 1 9 SIN(-0.000 0.010 10)
Voffset 9 0 DC 0.750
.tran 1ms 200ms


** Control part
.control
run
plot  v(2)
.endc

.end

