



.include spice_models/ees_sine.mod

V1 1 0 DC 5

V_ctrl 3 0 DC 2.5        ; control voltage input to the sine source
A1 3 2 ees_sine

.tran 1ms 100ms
    * .dc V1 -2 2 0.01      ; Sweep from -2V to +1V in 10mV steps


.control
run
plot v(1) v(3) v(2)
.endc
.end